US07842685B2
A mixture of ethyl 5-chlorothiazolo[5,4-b]pyridine-2-carboxylate (500 mg, 2.06 mmol), 1-phenylvinylboronic acid (366 mg, 2.47 mmol), Pd(Oac)2 (18.5 mg, 82.4 μmol), cesium carbonate (1.343 g, 4.12 mmol), and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos; 33.8 mg, 82.4 μmol) in toluene (10.0 mL) was sparged with argon, then heated at 90° C. for 21.5 h. The resulting brown solution was diluted with dichloromethane (30 mL) and filtered through a pad of silica gel (washing pad with ethyl acetate (3×30 mL)). The filtrate was concentrated in vacuo, and the residue was purified via column chromatography (silica gel, 0-70% EtOAc/hexanes) to afford ethyl 5-(1-phenylvinyl)thiazolo[5,4-b]pyridine-2-carboxylate as a light yellow solid. MS (ESI) m/z: Calculated: 310.1; Observed: 311.1 (M++1).

reactant | ethyl 5-chlorothiazolo[5,4-b]pyridine-2-carboxylate | 2.06 mmol, 500 mg | ClC1=CC=C2C(=N1)SC(=N2)C(=O)OCC | C9H7ClN2O2S
reactant | 1-phenylvinylboronic acid | 2.47 mmol, 366 mg | C1(=CC=CC=C1)C(=C)B(O)O | C8H9BO2
reactant | cesium carbonate | 4.12 mmol, 1.343 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 82.4 μmol, 33.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Oac)2 | 82.4 μmol, 18.5 mg | CC(=O)O.CC(=O)O.[Pd]
product | ethyl 5-(1-phenylvinyl)thiazolo[5,4-b]pyridine-2-carboxylate | C1(=CC=CC=C1)C(=C)C1=CC=C2C(=N1)SC(=N2)C(=O)OCC | C17H14N2O2S
